US07268135B2
Benzofuran-2-carboxylic acid 4′-(1-tert-butoxycarbonyl-2-methyl-propylsulfamoyl)-biphenyl-4-yl ester (325 mg) was dissolved in dichloromethane (15 mL) and added with TFA. The solution was stirred at room temperature for 7 hrs. Solvent was removed by rotovap and crude product purified by column chromatography (5–20% MeOH/EtOAc) to yield Benzofuran-2-carboxylic acid 4′-(1-carboxy-2-methyl-propylsulfamoyl)-biphenyl-4-yl ester in 76% yield (241 mg).

reactant | Benzofuran-2-carboxylic acid 4′-(1-tert-butoxycarbonyl-2-methyl-propylsulfamoyl)-biphenyl-4-yl ester | 325 mg | C(C)(C)(C)OC(=O)C(C(C)C)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)OC(=O)C=1OC2=C(C1)C=CC=C2 | C30H31NO7S
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | Benzofuran-2-carboxylic acid 4′-(1-carboxy-2-methyl-propylsulfamoyl)-biphenyl-4-yl ester | 76% yield | C(=O)(O)C(C(C)C)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)OC(=O)C=1OC2=C(C1)C=CC=C2 | C26H23NO7S
